6
R0100 1 0 1
R0203 2 3 1.88
L0200 2 0 1
C0304 3 4 0.31
C0204 2 4 1
G0305 3 5 6 1 1
E0601 6 1 3 5 0 -0.7 0 0.4 0 -0.2 0 0.027
VX 5 0 DC 0
V0400 4 0 PULSE 0 1 0 0 0 10000 20000 1
.TRAN 1000 10E-3 BE 1
